US05624937
2-Chloroquinoline (0.12 moles, 20.0 g), 4-nitrothiophenol (0.13 moles, 20.8 g), and potassium carbonate (0.13 moles, 18.5 g) were dissolved in 800 ml ethanol and stirred at room temperature for 1.5 hr. The mixture was filtered and the solid washed with ethanol. The solid was dissolved with ethyl acetate, washed with water, dried over sodium sulfate and concentrated to yield 2-(4-nitrophenylthio)quinoline 26.0 g, 77%. Mass Spec (FD) 282. Calculated for C15H10N2O2S: C, 63.82, H 3.57; N, 9.92. Found: C, 63.55, H 3.59; N, 9.71.

reactant | 2-Chloroquinoline | 0.12 moles, 20.0 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 4-nitrothiophenol | 0.13 moles, 20.8 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 0.13 moles, 18.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 2-(4-nitrophenylthio)quinoline | 26.0 g, 77% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NC2=CC=CC=C2C=C1 | C15H10N2O2S
